US07105544B2
1-(4-FLUOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE
Example 68 was prepared from 1-(4-fluorophenyl)cyclohexanecarboxylic acid and N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.07 (d, 1H, J=8.0 Hz), 7.79 (br s, 1H), 7.66 (t, 1H, J=8.0 Hz), 7.45–7.41 (m, 2H), 7.04–7.00 (m, 2H), 6.89 (d, 1H, J=7.6 Hz), 6.85 (br s, 1H), 3.30 (dd, 2H, J=6.0, 12.0 Hz), 2.97 (d, 2H, J=11.6 Hz), 2.57–2.50 (m, 2H), 2.37–2.32 (m, 4H), 2.01–1.77 (m, 8H), 1.65–1.60 (m, 8H), 1.27 (d, 6H, J=7.2 Hz); ESMS m/e: 509.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclohexanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15FO2
reactant | N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O | C17H28N4O
product | 1-(4-FLUOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE | FC1=CC=C(C=C1)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C1=NC(=CC=C1)NC(C(C)C)=O | C30H41FN4O2
